US07662973B2
Preparation of 1-(3,5-dinitrobenzyl)-5-(carboxymethyl)-3H-indolium Bromide (2)
3,5-Dinitrobenzyl chloride (12.46 g, 57.5 mmol) was added to a solution of 2,3,3-trimethyl-3H-indol-5-yl-acetic acid (2.5 g, 11.5 mmol) with sodium bromide (5.92 g, 57.5 mmol) in sulfolan (10 ml). The reaction was heated at 100° C. for 20 hrs, then cooled to room temperature. The crude reaction mixture was added dropwise to an excess of ethyl acetate and the dark brown solid was filtered OFF and dissolved in dimethylsulfoxide before purification by reverse phase chromatography. The product was isolated as beige solid (54% yield). 1H NMR (d6-DMSO): δH: 8.75 (s, 1H), 8.45 (s, 2H), 7.15 (s, 1H), 6.95 (d, 1H), 6.70 (d, 2H), 5.10 (s, 2H), 3.95 (s, 2H), 3.45 (s, 3H), 1.40 (s, 6H). MALDI-TOF, m/z=398 (M+=398 for C20H20N3O6).

reactant | 3,5-Dinitrobenzyl chloride | 57.5 mmol, 12.46 g | [N+](=O)([O-])C=1C=C(CCl)C=C(C1)[N+](=O)[O-] | C7H5ClN2O4
reactant | 2,3,3-trimethyl-3H-indol-5-yl-acetic acid | 11.5 mmol, 2.5 g | CC1=NC2=CC=C(C=C2C1(C)C)CC(=O)O | C13H15NO2
reactant | sodium bromide | 57.5 mmol, 5.92 g | [Br-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sulfolan | 10 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 1-(3,5-dinitrobenzyl)-5-(carboxymethyl)-3H-indolium Bromide | 54% yield | [Br-].[N+](=O)([O-])C=1C=C(C[N+]2=CCC3=CC(=CC=C23)CC(=O)O)C=C(C1)[N+](=O)[O-] | InChI=1S/C17H13N3O6.BrH/c21-17(22)8-11-1-2-16-13(5-11)3-4-18(16)10-12-6-14(19(23)24)9-15(7-12)20(25)26;/h1-2,4-7,9H,3,8,10H2;1H
